US07534797B2
(3-Chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methanol
To a solution of 2,2,6,6-tetramethylpiperidine (0.820 mL, 0.686 g, 4.86 mmol) in dry THF (15 mL), cooled by CO2(s)/acetone, is added nBuLi (2.5M in hexanes; 1.95 mL, 4.88 mmol). The cooling bath is replaced with an ice/water bath for 15 min, and then the solution is re-cooled to −78° C. After 5 min, a solution of 2-chloropyrazine (0.370 mL, 0.475 g, 4.14 mmol) in THF (0.5 mL) is added. 25 min later, a solution of 2-phenylquinoline-7-carbaldehyde (890 mg, 3.82 mmol) in dry THF (7 mL) is added slowly over 5 min from a syringe which is then rinsed with THF (1 mL), and the mixture is stirred at −78° C. for 2 h and then warmed up to 0° C. for 0.5 h. The reaction is quenched by adding citric acid (0.25M aqueous solution). The mixture is extracted with EtOAc (4×30 mL), and the combined EtOAc extracts are washed with water, sodium bicarb solution, and brine and dried over MgSO4. The crude material is chromatographed on silica gel [Jones Flashmaster, 50 g/150 mL cartridge, eluting with CH2Cl2 (4×50 mL, then 1-16)→2% EtOAc in CH2Cl2 (17-30)→5% (31-59)→7% (60-85)→10% (86-110)] to obtain the title compound as an off-white foam. 1H NMR (CDCl3, 400 MHz) δ 4.80 (d, J=7.6 Hz, 1H), 6.25 (d, J=7.6 Hz, 1H), 7.43-7.56 (m, 3H), 7.58 (dd, J=1.8, 8.2 Hz, 1H), 7.83 (d, J=8.4 Hz, 1H), 7.87 (d, J=8.4 Hz, 1H), 8.06 (brs, 1H), 8.10-8.15 (m, 2H), 8.20 (d, J=8.4 Hz, 1H), 8.41 (d, J=2.4 Hz, 1H), 8.62 (d, J=2.4 Hz, 1H). MS (ES+): m/z 348.0/350.0 (100/37) [MH+]. HPLC: tR=3.3 min (MicromassZQ, polar—5 min).

reactant | 2,2,6,6-tetramethylpiperidine | 4.86 mmol, 0.820 mL, 0.686 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | CO2 | C(=O)=O | CO2
reactant | nBuLi | 4.88 mmol, 2.5M, 1.95 mL | [Li]CCCC
reactant | 2-chloropyrazine | 4.14 mmol, 0.370 mL, 0.475 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 2-phenylquinoline-7-carbaldehyde | 3.82 mmol, 890 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C=O | C16H11NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | (3-Chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methanol | ClC=1C(=NC=CN1)C(O)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C20H14ClN3O
